US05364866
A mixture of vanillin (30.4 g, 0.2 mol), K2CO3 (27.6 g) and acetone (150 ml) was stirred and refluxed for 0.5 hours. Heating was removed and 1-bromo-3-chloropropane (40.8 g, 0.26 mol) in acetone was added dropwise. The reaction was stirred and refluxed for 16 hours, and then it was poured into water. The aqueous mixture was extracted with diethyl ether, the extract was dried (MgSO4), and the solution ,was concentrated to afford an oil, which upon evacuation solidified to a white solid (50.2 g). An 8.0 g sample was flash chromatographed on silica gel with 50% ethyl acetate-hexane as eluent. Concentration of appropriate fractions gave 2.7 g (37%) of 4-(3-chloropropoxy)-3-methoxybenzaldehyde as a white solid m.p.=53°-55° C.

reactant | vanillin | 0.2 mol, 30.4 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | K2CO3 | 27.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3-chloropropane | 0.26 mol, 40.8 g | BrCCCCl | C3H6BrCl
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-(3-chloropropoxy)-3-methoxybenzaldehyde | 2.7 g, 37% | ClCCCOC1=C(C=C(C=O)C=C1)OC | C11H13ClO3
